US07951794B2
A solution of 1-(4-phenyl-5-propyl-thiophen-2-yl)-ethanone (450 mg, 1.84 mmol) and 3,5-dimethyl-4-hydroxybenzaldehyde (331 mg, 2.21 mmol) in ethanol (4 mL) and 5 N HCl in isopropanol (2 mL) is stirred at rt for 18 h. The dark solution is diluted with water and extracted with EA. The organic extract is evaporated, dissolved in methanol (5 mL) and THF (5 mL) and treated with Pd/C (100 mg, 10% Pd). The slurry is stirred under 1.8 bar of H2 for 16 h. The mixture is filtered, the solvent of the filtrate is removed in vacuo and the crude product is purified by CC prep. TLC plates with heptane:EA 2:1 to give 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-phenyl-5-propyl-thiophen-2-yl)-propan-1-one (550 mg) as a colourless oil; LC-MS: tR=1.13 min; [M+1]+=379.20, 1H NMR (CDCl3): δ 7.56 (s, 1H), 7.45-7.28 (m, 5H), 6.85 (s, 2H), 4.48 (s, 1H), 3.17-3.10 (m, 2H), 2.96-2.89 (m, 2H), 2.87-2.80 (m, 2H), 2.21 (s, 6H), 1.74-1.64 (m, 2H), 0.94 (t, J=7.0 Hz, 3H).

reactant | 1-(4-phenyl-5-propyl-thiophen-2-yl)-ethanone | 1.84 mmol, 450 mg | C1(=CC=CC=C1)C=1C=C(SC1CCC)C(C)=O | C15H16OS
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 2.21 mmol, 331 mg | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | HCl | 5 N | Cl | ClH
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-phenyl-5-propyl-thiophen-2-yl)-propan-1-one | 550 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CCC)C | C24H26O2S
